US07482356B2
Preparation of 3-(2-methylsulfanyl-pyrimidin-4-yl)-1-oxo-6,7-dihydro-1H,5H-pyrazolo[1,2-a]pyrazole-2-carboxylic acid ethyl ester (13):
To a solution of 3-[2-(2-methylsulfanyl-pyrimidine-4-carbonyl)-pyrazolidin-1-yl]-3-oxo-propionic acid ethyl ester, 12, (9.6 g, 28.4 mmol) in DMF (280 mL) was added 1.8-diazabicyclo[5.4.0]-undec-7-ene (12.7 mL, 85.2 mmol). The reaction solution is stirred for 2 hours at room temperature then diluted with H2O. The aqueous phase is extracted three times with CHCl3. The combined organic phases are washed with aqueous saturated NH4Cl (×3), dried (MgSO4), filtered and concentrated in vacuo. The residue is purified over silica (5% MeOH/CHCl3) to afford 3.1 g of the desired product. 1H NMR (300 MHz, CDCl3) δ 8.67 (d, J=5.1 Hz, 1H), 7.61 (d, J=5.1 Hz, 1H), 4.33 (q, J=7.2 Hz, 2H), 4.31 (t, J=7.2 Hz, 2H), 4.09 (t, J=7.2 Hz, 2H), 2.74 (dddd, 7.2, 7.2, 7.2, 7.2 Hz, 2H), 2.61 (s, 3H), 1.35 (t, J=7.2 Hz, 3H); ESI+ MS: m/z (rel intensity) 321.1 (100, M++H).

reactant | 3-[2-(2-methylsulfanyl-pyrimidine-4-carbonyl)-pyrazolidin-1-yl]-3-oxo-propionic acid ethyl ester | C(C)OC(CC(=O)N1N(CCC1)C(=O)C1=NC(=NC=C1)SC)=O | C14H18N4O4S
reactant | 1.8-diazabicyclo[5.4.0]-undec-7-ene | 85.2 mmol, 12.7 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | DMF | 280 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 3-(2-methylsulfanyl-pyrimidin-4-yl)-1-oxo-6,7-dihydro-1H,5H-pyrazolo[1,2-a]pyrazole-2-carboxylic acid ethyl ester | 3.1 g | C(C)OC(=O)C1=C(N2N(CCC2)C1=O)C1=NC(=NC=C1)SC | C14H16N4O3S
